US09212190B2
To a solution of benzyl N-[(1S)-1-carbamoyl-2-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl]carbamate (40 mg, 0.07 mmol, 1.00 equiv) in dichloromethane (2 mL) was added hydrochloric acid (conc., 1 mL) and the resulting solution was stirred for 5 h at 30° C. The resulting mixture was concentrated under vacuum and the crude product was purified by preparative HPLC under the following conditions (Waters): column: XBridge Prep C18 OBD column: 5 um, 19*150 mm; Mobile phase: water with 0.03% NH3.H2O and CH3CN (13.0% CH3CN up to 30.0% in 10 min, up to 100.0% in 2 min, down to 13.0% in 2 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and concentrated to remove CH3CN and water under reduced pressure. The residue was lyophilized overnight to give (2S)-2-amino-3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (11.2 mg, 37%) as a white solid. MS: m/z 404 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 1.40-1.50 (m, 4H), 1.68-1.75 (m, 2H), 2.00-2.10 (m, 2H), 2.12-2.18 (m, 1H), 2.25-2.35 (m, 2H), 2.33 (s, 6H), 2.50-2.60 (m, 1H), 2.65-2.75 (m, 1H), 2.90-2.95 (m, 1H), 3.00-3.15 (m, 1H), 3.35-3.48 (m, 2H), 5.20-5.30 (m, 1H), 8.42 (s, 1H).

reactant | benzyl N-[(1S)-1-carbamoyl-2-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl]carbamate | 0.07 mmol, 40 mg, 1.00 equiv | C(N)(=O)[C@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C)C)NC(OCC1=CC=CC=C1)=O | C28H35N5O4S
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S)-2-amino-3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | 11.2 mg, 37% | N[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C)C | C20H29N5O2S
